US03950393
30 gm of 2-acetamino-5-carbethoxy-benzyl bromide were dissolved in a mixture of 400 ml of chloroform and 100 ml of ethanol, and the solution was refluxed with 22 gm of diethylamine for 1 hour. Thereafter, the reaction solution was cooled, then evaporated in vacuo, the residue was distributed between a mixture of dilute ammonia and chloroform, and the chloroform phase was dried over sodium sulfate and evaporated in vacuo. The residue was purified by chromatography on silicagel (elution agent: ethyl acetate) and recrystallized from ethanol, yielding 2-acetamino-5-carbethoxy-N,N-diethyl-benzylamine, m.p. 57°-59°C.

reactant | 2-acetamino-5-carbethoxy-benzyl bromide | 30 gm | N(C(=O)C)C1=C(CBr)C=C(C=C1)C(=O)OCC | C12H14BrNO3
reactant | diethylamine | 22 gm | C(C)NCC | C4H11N
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-acetamino-5-carbethoxy-N,N-diethyl-benzylamine | N(C(=O)C)C1=C(CN(CC)CC)C=C(C=C1)C(=O)OCC | C16H24N2O3
